US04708733
Preparation of diethyl-2-(2'-methyl-4-chloro-phenoxy)-propionyl-malonate
A mixture of 25.1 g of diethyl-2-chloro-propionyl-malonate, 16.5 g of sodium 4-chloro-2-methyl-phenolate and 100 ml of dimethyl formamide is stirred at 60° C. for 48 hours. The reaction mixture is filtered and the filtrate is evaporated. The residue is dissolved in 100 ml of benzene and washed succesively with 100 ml of a saturated aqueous sodium bicarbonate solution and 100 ml of water. The benzene layer is evaporated to give 28.7 g of the desired compound, yield 82%.

reactant | diethyl-2-chloro-propionyl-malonate | 25.1 g | C(C)OC(C(C(=O)OCC)C(C(C)Cl)=O)=O | C10H15ClO5
reactant | sodium 4-chloro-2-methyl-phenolate | 16.5 g | ClC1=CC(=C(C=C1)[O-])C.[Na+]
solvent | dimethyl formamide | 100 ml | CN(C=O)C | C3H7NO
product | diethyl-2-(2'-methyl-4-chloro-phenoxy)-propionyl-malonate | 28.7 g, yield 82% | C(C)OC(C(C(=O)OCC)C(C(C)OC1=C(C=C(C=C1)Cl)C)=O)=O | C17H21ClO6
